US05428040
To a solution of 3-bromobenzyl bromide (23.75 g, 90 mmol) and thioglycolic acid (11.42 g, 120 mmol) in ethanol (150 mL) was added potassium hydroxide (14.24 g, 250 mmol) in water (50 mL). The reaction was heated at reflux for 3.5 h, cooled and the ethanol was evaporated. The residue was quenched with water (100 mL) and the mixture was extracted with ether (50 mL). The aqueous layer was acidified to pH 1 with concentrated hydrochloric acid, extracted with ethyl acetate (2×100 mL) and the organic phase was dried. Evaporation of the solvent followed by washing of the residue with hexane afforded 3-bromophenylmethylthioacetic acid as a white solid (92%), mp 90°-91° C.: 1H NMR (CDCl3) δ3.10 (s, 2H), 3.82 (s, 2H), 7.20-7.29 (m, 2H), 7.39-7.42 (dd, 1H), 7.52 (d, 1H); IR (KBr) 1706 cm-1 ; Mass spectrum m/z 280 (M+NH4); Anal. calcd. for C9H9O2SBr: C 41.39, H 3.47, S 12.28; Found C 41.43, H 3.49, S 12.10.

reactant | 3-bromobenzyl bromide | 90 mmol, 23.75 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | thioglycolic acid | 120 mmol, 11.42 g | C(CS)(=O)O | C2H4O2S
reactant | potassium hydroxide | 250 mmol, 14.24 g | [OH-].[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 3-bromophenylmethylthioacetic acid | 92% | BrC=1C=C(C=CC1)CCC(=S)O | C9H9BrOS
